US08791267B2
Synthesis of [5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-carbamic acid phenyl ester (I-149).
In an 8 mL vial equipped with a stir bar was placed C-[5-(3′-chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methylamine (P-596, 115 mg, 0.307 mmol), dichloromethane (1.5 mL) and triethylamine (85.6 uL, 0.614 mmol). The solution was cooled to 0° C. and then phenyl chloroformate (57.8 uL, 0.461 mmol) was added and the mixture was stirred at 0° C. for 15 minutes. The reaction was quenched with water (3 mL) and then the organic portion was removed. The aqueous portion was extracted with dichloromethane (2 mL), the organic portions were combined, washed with brine (3 mL), dried (MgSO4), concentrated and purified by silica gel column chromatography utilizing 70% ethyl acetate/hexanes as the eluent to produce 78 mg of I-149 as a yellow viscous oil in 51% yield.

reactant | C-[5-(3′-chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methylamine | 0.307 mmol, 115 mg | ClC=1C=C(C=CC1)C1=CC(=CC=C1OC(F)F)CC=1C=CC(=NC1)CN | C20H17ClF2N2O
reactant | triethylamine | 0.614 mmol, 85.6 uL | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.461 mmol, 57.8 uL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | [5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-ylmethyl]-carbamic acid phenyl ester | 51% yield | C1(=CC=CC=C1)OC(NCC1=NC=C(C=C1)CC=1C=C(C(=CC1)OC(F)F)C1=CC(=CC=C1)Cl)=O | C27H21ClF2N2O3
